US04872901
5-Benzylthio-1,3-dimethylpyrazole-4-carboxylic acid
A mixture of 100 ml of ethanol, 7.8 g of potassium hydroxide and 35.0 g of ethyl 5-benzylthio-1,3-dimethyl-pyrazole-4-carboxylate obtained in Reference Example 5 is refluxed while stirring for 5 hours. After evaporating off ethanol, dichloromethane is added to the residue, and the resulting solution is extracted with water. After acidifying the aqueous solution to pH 2 with diluted hydrochloric acid, extracted with dichloromethane, and then dried over anhydrous sodium sulfate. Evaporating off dichloromethane yields 27.7 g of the title compound.

reactant | potassium hydroxide | 7.8 g | [OH-].[K+]
reactant | ethyl 5-benzylthio-1,3-dimethyl-pyrazole-4-carboxylate | 35.0 g | C(C1=CC=CC=C1)SC1=C(C(=NN1C)C)C(=O)OCC | C15H18N2O2S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-Benzylthio-1,3-dimethylpyrazole-4-carboxylic acid | 27.7 g | C(C1=CC=CC=C1)SC1=C(C(=NN1C)C)C(=O)O | C13H14N2O2S
